US06943183B2
Diethyl azodicarboxylate (0.16 mL, 0.99 mmol) was added over 10 min to a mixture of 6-Hydroxy-5-[(phenylsulfonyl)methyl]-3,4-dihydro-1(2H)-naphthalenone (300 mg, 0.99 mmol), 1-(1H-imidazol-1-yl)-2-hexanol (166 mg, 1.08 mmol), triphenylphosphine (259 mg, 0.99 mmol) and tetrahydrofuran (2 mL) under nitrogen. The resulting mixture was stirred for 5 d, whereupon it was concentrated and the residue was purified by dry-flash column chromatography (SiO2, 1-9% 2-propanol-dichloromethane) to give 6-{[1-(1H-imidazol-1-ylmethyl)pentyl]oxy}-5-[(phenylsulfonyl)methyl]-3,4-dihydro-1(2H)-naphthalenone as a colorless foam, 283 mg, 62% yield. NMR spectrum was consistent with structure. MS EI: M+• 466.1919 (M+• 466.1926).

reactant | Diethyl azodicarboxylate | 0.99 mmol, 0.16 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 6-Hydroxy-5-[(phenylsulfonyl)methyl]-3,4-dihydro-1(2H)-naphthalenone | 0.99 mmol, 300 mg | OC=1C(=C2CCCC(C2=CC1)=O)CS(=O)(=O)C1=CC=CC=C1 | C17H16O4S
reactant | 1-(1H-imidazol-1-yl)-2-hexanol | 1.08 mmol, 166 mg | N1(C=NC=C1)CC(CCCC)O | C9H16N2O
reactant | triphenylphosphine | 0.99 mmol, 259 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 6-{[1-(1H-imidazol-1-ylmethyl)pentyl]oxy}-5-[(phenylsulfonyl)methyl]-3,4-dihydro-1(2H)-naphthalenone | 62% yield | N1(C=NC=C1)CC(CCCC)OC=1C(=C2CCCC(C2=CC1)=O)CS(=O)(=O)C1=CC=CC=C1 | C26H30N2O4S
